US09447044B2
Step A: 2-isobutylsulfanyl-nicotinic acid
2-Mercapto-nicotinic acid (2 g, 12.8 mmol) and isobutyliodide were reacted in the same manner as in Step A of Preparation Example 10 to obtain the title compound (2.175 g, 92%).

reactant | 2-Mercapto-nicotinic acid | 12.8 mmol, 2 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | isobutyliodide | C(C(C)C)I | C4H9I
product | 2-isobutylsulfanyl-nicotinic acid | 2.175 g, 92% | C(C(C)C)SC1=C(C(=O)O)C=CC=N1 | C10H13NO2S
